US08198269B2
(10) Synthesis of tert-butyl [(4aR,6R,8aS)-8a-(2-fluoro-5-nitrophenyl)-6-hydroxymethyl-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]carbamate
Triethylamine (1 ml) was added to a solution of [(4aR,6R,8aS)-2-amino-8a-(2-fluoro-5-nitrophenyl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-6-yl]methanol (1.0 g) in THF (100 ml). Then, di-tert-butyl dicarbonate (1.28 g) was added and the mixture was stirred at room temperature overnight. The solvent was evaporated under reduced pressure and the residue was purified by NH-silica gel column chromatography to obtain the title compound (1.05 g).

reactant | Triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | [(4aR,6R,8aS)-2-amino-8a-(2-fluoro-5-nitrophenyl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-6-yl]methanol | 1.0 g | NC1=N[C@]2(CO[C@H](C[C@H]2CS1)CO)C1=C(C=CC(=C1)[N+](=O)[O-])F | C14H16FN3O4S
reactant | di-tert-butyl dicarbonate | 1.28 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | tert-butyl [(4aR,6R,8aS)-8a-(2-fluoro-5-nitrophenyl)-6-hydroxymethyl-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]carbamate | 1.05 g | FC1=C(C=C(C=C1)[N+](=O)[O-])[C@@]12CO[C@H](C[C@H]2CSC(=N1)NC(OC(C)(C)C)=O)CO | C19H24FN3O6S
